US04556654
2-[2-[(2-Hydroxyethyl)amino]ethyl]-7-[[2-[(2-hydroxyethyl)amino]ethyl]amino]anthra[1,9-cd]pyrazol-6-(2H)-one
A mixture of 11.1 g (40 mmol) of 1,5-dichloro-9,10-anthracenedione, 13.1 g (110 mmol) of 2-[(hydrazinoethyl)amino]ethanol, 4 g of anhydrous potassium bicarbonate, 1 g of anhydrous potassium fluoride, and 110 ml of dimethyl sulfoxide is stirred at 70° C. overnight. The mixture is chilled and the solids are collected by filtration, washed with water, then thoroughly with acetonitrile to give a residue that is crystallized from 2-propanol to leave 2.6 g of product. The hydrochloride salt is prepared as described in Example 3; mp 272°-273° C. (decomposition).

reactant | 1,5-dichloro-9,10-anthracenedione | 40 mmol, 11.1 g | ClC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)Cl)=O | C14H6Cl2O2
reactant | 2-[(hydrazinoethyl)amino]ethanol | 110 mmol, 13.1 g | N(N)CCNCCO | C4H13N3O
reactant | potassium bicarbonate | 4 g | C([O-])(O)=O.[K+]
reactant | potassium fluoride | 1 g | [F-].[K+]
solvent | dimethyl sulfoxide | 110 ml | CS(=O)C | C2H6OS
product | 2-[2-[(2-Hydroxyethyl)amino]ethyl]-7-[[2-[(2-hydroxyethyl)amino]ethyl]amino]anthra[1,9-cd]pyrazol-6-(2H)-one | 2.6 g | OCCNCCN1N=C2C3=C1C=CC=C3C(C3=C(C=CC=C32)NCCNCCO)=O | C22H27N5O3
